* UCC21550 Test Circuit for Induction Cooker Application
* Half-Bridge Configuration with IGBTs
* This netlist demonstrates the UCC21550 driving a half-bridge inverter
* Suitable for ngspice simulation

.title UCC21550 Induction Cooker Gate Driver Test

* Include the UCC21550 model
.include UCC21550.lib

***************************************************************************
* Power Supplies
***************************************************************************
* Primary side logic supply (5V for microcontroller interface)
VCC VCCI 0 DC 5.0

* Secondary side gate drive supply (15V typical for IGBTs)
VDD_HS VDDA 0 DC 15.0
VDD_LS VDDB 0 DC 15.0

* High voltage DC bus for induction cooker (300V typical for 120V AC mains)
VDC_BUS VDC 0 DC 300

***************************************************************************
* Input Signals - PWM from microcontroller
***************************************************************************
* High-side input - 50kHz, 45% duty cycle (with dead time)
VIN_HS INA 0 PULSE(0 3.3 0 10n 10n 8.55u 20u)

* Low-side input - 50kHz, 45% duty cycle, 180° out of phase
VIN_LS INB 0 PULSE(0 3.3 10.5u 10n 10n 8.55u 20u)

* Disable input - tied low for normal operation
VDIS DIS 0 DC 0

* Dead time programming - float for no additional dead time
* (Dead time is programmed in input signals above)
* Connect to GND through resistor for programmable dead time

***************************************************************************
* UCC21550 Gate Driver IC
***************************************************************************
* Using UCC21550A variant (5V UVLO on VDD)
XUCC21550 INA INB VCCI 0 DIS DT_PIN NC1 VCCI 0 GATE_LS VDDB NC2 NC3 SW GATE_HS VDDA UCC21550A

* Dead time pin left floating for this example
R_DT DT_PIN 0 1MEG

***************************************************************************
* Gate Drive Resistors
***************************************************************************
* High-side gate driver
R_G_HS_ON GATE_HS HS_GATE 2.2
* Anti-parallel diode for fast turn-off
D_G_HS GATE_HS HS_GATE DFAST

* Low-side gate driver
R_G_LS_ON GATE_LS LS_GATE 2.2
* Anti-parallel diode for fast turn-off
D_G_LS GATE_LS LS_GATE DFAST

* Gate-to-source resistors for stability
R_GS_HS HS_GATE SW 10k
R_GS_LS LS_GATE 0 10k

***************************************************************************
* Power Transistors (Simplified IGBT models)
***************************************************************************
* High-side IGBT (e.g., IKW40N120H3)
Q_HS VDC HS_GATE SW IGBT_MODEL
D_HS_FWD SW VDC DFAST

* Low-side IGBT
Q_LS SW LS_GATE 0 IGBT_MODEL
D_LS_FWD 0 SW DFAST

***************************************************************************
* Load - Induction Coil (Series Resonant LC)
***************************************************************************
* Resonant capacitor (typically 0.1-0.5uF for induction cooker)
C_RES SW N_COIL 0.22u IC=0

* Induction coil (typically 50-150uH with ESR)
L_COIL N_COIL LOAD 100u IC=0
R_COIL LOAD 0 0.5

* Snubber circuit
R_SNUB SW N_SNUB 10
C_SNUB N_SNUB 0 10n

***************************************************************************
* Device Models
***************************************************************************
* Fast recovery diode model
.model DFAST D (IS=1e-15 RS=0.05 CJO=50p TT=10n BV=1200)

* Simplified IGBT model (behavioral)
.model IGBT_MODEL NPN (BF=20 IS=1e-15 VAF=100 IKF=5
+ CJE=500p CJC=100p TF=50n TR=500n)

***************************************************************************
* Simulation Control
***************************************************************************
* Transient analysis - run for 5 switching cycles
.tran 1n 100u 0 1n

* Initial conditions
.ic V(SW)=0 V(HS_GATE)=0 V(LS_GATE)=0

***************************************************************************
* Output Control
***************************************************************************
* Save key waveforms
.save V(INA) V(INB) V(GATE_HS) V(GATE_LS) V(SW) V(LOAD) I(L_COIL) I(VDC_BUS)

* Print results
.control
run
set hcopydevtype=postscript
set color0=white
set color1=black

* Plot input signals
plot V(INA) V(INB)+5 title 'Input Signals'

* Plot gate drive signals
plot V(GATE_HS) V(GATE_LS) title 'Gate Drive Signals'

* Plot switch node and load voltage
plot V(SW) V(LOAD) title 'Switch Node and Load'

* Plot load current
plot I(L_COIL) title 'Inductor Current'

* Plot DC bus current
plot I(VDC_BUS) title 'DC Bus Current'

echo "===== UCC21550 Test Results ====="

* Measure propagation delays
meas tran t_rise_ina WHEN V(INA)=1.65 RISE=1
meas tran t_rise_gate_hs WHEN V(GATE_HS)=7.5 RISE=1

* Calculate prop delay using variables
let prop_delay_hs = t_rise_gate_hs - t_rise_ina
echo "High-Side Propagation Delay:"
print prop_delay_hs

* Measure dead time
meas tran t_fall_gate_ls WHEN V(GATE_LS)=7.5 FALL=1
meas tran t_rise_gate_hs2 WHEN V(GATE_HS)=7.5 RISE=1

let dead_time = t_rise_gate_hs2 - t_fall_gate_ls
echo "Dead Time:"
print dead_time

.endc

.end